US07790737B2
N-(5-Methoxypyrimidin-2-yl)hexanamide (17.26 g, 77 mmol) was suspended in 1,2-dichloroethane (170 mL), the suspension was added with boron tribromide (20.5 mL, 216 mmol), and the mixture was refluxed by heating for 30 minutes. The reaction mixture was inactivated with methanol (170 mL) under ice cooling. The reaction mixture was concentrated under reduced pressure, the resulting residue was added with saturated ammonia in methanol (85 mL) under ice cooling, and the mixture was homogenized. The reaction mixture was concentrated under reduced pressure, and the resulting residue was added with water, and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure, and the resulting residue was isolated and purified by silica gel column chromatography (hexane:acetone=2:1) to obtain N-(5-hydroxypyrimidin-2-yl)hexanamide (9.36 g, 59%) as pale yellow solid.

reactant | N-(5-Methoxypyrimidin-2-yl)hexanamide | 77 mmol, 17.26 g | COC=1C=NC(=NC1)NC(CCCCC)=O | C11H17N3O2
reactant | boron tribromide | 216 mmol, 20.5 mL | B(Br)(Br)Br | BBr3
reactant | methanol | 170 mL | CO | CH4O
solvent | 1,2-dichloroethane | 170 mL | ClCCCl | C2H4Cl2
product | N-(5-hydroxypyrimidin-2-yl)hexanamide | 9.36 g, 59% | OC=1C=NC(=NC1)NC(CCCCC)=O | C10H15N3O2
